US09035059B2
Potassium carbonate (4.15 g, 30 mmol) and methyl iodide (1.49 mL, 24.0 mmol) were added to a solution of 2-fluoro-5-nitroaniline (1.56 g, 10.0 mmol) in N,N-dimethylformamide (30 mL) at room temperature and the mixture was stirred at 100° C. for 6 hr. After cooling to room temperature, water was added to the reaction mixture and the mixture was extracted three times with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid and brine and dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to afford 2-fluoro-N,N-dimethyl-5-nitroaniline as a pale yellow oil (290 mg).

reactant | Potassium carbonate | 30 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 24.0 mmol, 1.49 mL | CI | CH3I
reactant | 2-fluoro-5-nitroaniline | 10.0 mmol, 1.56 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-fluoro-N,N-dimethyl-5-nitroaniline | 290 mg | FC1=C(N(C)C)C=C(C=C1)[N+](=O)[O-] | C8H9FN2O2
